US04517195
[2-(2-Chlorobenzoyl)-5-methyl-1H-pyrrol-1-yl]-carbamic acid, ethyl ester
To a stirred slurry containing 1-amino-2-(2-chlorobenzoyl)-5-methylpyrrole (27.1 g, 0.115 mol) and sodium bicarbonate (16.8 g, 0.20 mol) in 300 ml of dichloromethane was added ethyl chloroformate (21.7 g, 0.20 mol) over 5 minutes. The reaction mixture was stirred at room temperature overnight and thereafter quenched with 500 ml of H2O. The organic layer was washed with brine, dried (MgSO4), charcoaled, filtered, and evaporated to an oil. This oil crystallized in hexane, which was recrystallized from ether-hexane to give 31.9 g (90%) of powder, m.p. 82°-84°.

reactant | 1-amino-2-(2-chlorobenzoyl)-5-methylpyrrole | 0.115 mol, 27.1 g | NN1C(=CC=C1C)C(C1=C(C=CC=C1)Cl)=O | C12H11ClN2O
reactant | sodium bicarbonate | 0.20 mol, 16.8 g | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 0.20 mol, 21.7 g | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | [2-(2-Chlorobenzoyl)-5-methyl-1H-pyrrol-1-yl]-carbamic acid, ethyl ester | 31.9 g, 90% | ClC1=C(C(=O)C=2N(C(=CC2)C)NC(OCC)=O)C=CC=C1 | C15H15ClN2O3
